US04868132
4-(3-chloropropoxy)phenylacetone
A 4.50 g portion of p-hydroxyphenylacetone, prepared above, was dissolved in 80 mL of anhydrous dimethylformamide under a dry nitrogen atmosphere. With stirring 1.26 g of sodium hydride (as a 60% dispersion in oil) was added to the solution. After 3 minutes, 9.40 g of 1-chloro-3-iodopropane was quickly added. After stirring for approximately 18 hours, the reactionwas diluted with 300 mL hexane and 100 mL diethyl ether. The resulting mixture was washed with distilled water, 5% sodium hydroxide solution, andbrine. The remaining organic phase was dried and evaporated to dryness in vacuo. The yellow oil was purified by column chromatography over silica gel, using 22% ethyl acetate and 78% hexane. Appropriate fractions were pooled and solvents removed in vacuo to yield 3.06 g of a yellow oil.

reactant | p-hydroxyphenylacetone | CC(=O)CC=1C=CC(=CC1)O | C9H10O2
reactant | sodium hydride | 1.26 g | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 9.40 g | ClCCCI | C3H6ClI
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | hexane | 300 mL | CCCCCC | C6H14
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-(3-chloropropoxy)phenylacetone | 3.06 g | ClCCCOC1=CC=C(C=C1)CC(C)=O | C12H15ClO2
